US09403832B2
Part B. tert-butyl (2-((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)ethyl)(methyl)carbamate
To 465 mg (2.00 mmol) of 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine was added tert-butyl (2-aminoethyl)(methyl)carbamate (522 mg, 3.00 mmol), 4 mL of isopropanol, and triethylamine (0.56 mL, 4.00 mmol). The resulting mixture is heated at 140° C. for 0.5 hr in the microwave. It was diluted with EtOAc, and washed with water and brine. The organic layer was dried over MgSO4, concentrated and purified on the silica gel column eluting with 20-100% EtOAc/Hex to obtain 607 mg (82%) of the desired product.

reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 2.00 mmol, 465 mg | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | tert-butyl (2-aminoethyl)(methyl)carbamate | 3.00 mmol, 522 mg | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
reactant | isopropanol | 4 mL | C(C)(C)O | C3H8O
reactant | triethylamine | 4.00 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2-((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)ethyl)(methyl)carbamate | 607 mg, 82% | BrC=1C=NN2C1N=C(C=C2)NCCN(C(OC(C)(C)C)=O)C | C14H20BrN5O2
